US07932272B2
2-Amino-6.7-dihydro-5H-cyclopenta[b]pyridine-3-carboxylic Acid
2-Amino-6,7-dihydro-5H-cyclopenta[b]pyridine-3-carboxylic acid ethyl ester (0.2 g, 0.97 mmol) described in Preparation Example C-4 was dissolved in ethanol (15 mL), an aqueous solution of 1N sodium hydroxide (7.5 mL) was added thereto, followed by heating at 100° C. for 30 minutes. The reaction solution was allowed to room temperature, then cooled on an ice bath, and neutralized with 1N hydrochloric acid. The precipitated solid was collected by filtration, rinsed with water, then dried, and the title compound (143 mg, 0.8 mmol, 83%) was obtained.

reactant | 2-Amino-6,7-dihydro-5H-cyclopenta[b]pyridine-3-carboxylic acid ethyl ester | 0.97 mmol, 0.2 g | C(C)OC(=O)C=1C=C2C(=NC1N)CCC2 | C11H14N2O2
reactant | sodium hydroxide | 1N, 7.5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-Amino-6.7-dihydro-5H-cyclopenta[b]pyridine-3-carboxylic Acid | 0.8 mmol, 143 mg, 83% | NC1=C(C=C2C(=N1)CCC2)C(=O)O | C9H10N2O2
